US05498630
N-Ethyl-2-fluoro-6-(trimethylsilyl)benzamide
A solution of 1.3M s-BuLi in cyclohexane (20.3 mL, 26.4 mmol) was added to an ether/liquid nitrogen cooled solution of N-ethyl-2-fluorobenzamide (2.00 g, 11.98 mmol) in THF (75 mL) and ether (75 mL), maintaining the internal reaction temperature ≤-95° C. The resulting mixture was stirred at this temperature for 30 min, then TMSCl (1.43 g, 13.2 mmol) was added and the mixture warmed to -60° C. After 2 h, the reaction was poured into water (200mL). The organic layer was dried (MgSO4), concentrated, and purified by silica gel chromatography, eluted with 3:7 ethyl acetate/hexanes, to afford 0.45 g of the title compound as a white solid, a 16% yield. m.p. 86°-87° C.

reactant | s-BuLi | 1.3M | [Li]C(C)CC
reactant | cyclohexane | 26.4 mmol, 20.3 mL | C1CCCCC1 | C6H12
reactant | N-ethyl-2-fluorobenzamide | 11.98 mmol, 2.00 g | C(C)NC(C1=C(C=CC=C1)F)=O | C9H10FNO
reactant | TMSCl | 13.2 mmol, 1.43 g | C[Si](C)(C)Cl | C3H9ClSi
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | ether | 75 mL | CCOCC | C4H10O
solvent | water | 200mL | O | H2O
product | N-Ethyl-2-fluoro-6-(trimethylsilyl)benzamide | 0.45 g, 16% yield | C(C)NC(C1=C(C=CC=C1[Si](C)(C)C)F)=O | C12H18FNOSi
